US08664230B2
To a solution of 5-bromopyridin-3-amine (0.300 g, 1.73 mmol) in pyridine (8.67 ml) was slowly added 4-bromo-2-chlorobenzene-1-sulfonyl chloride (0.600 g, 2.08 mmol) at 0° C. The reaction mixture was stirred for 2 hours at room temperature. The reaction mixture was quenched with 1 N aq. HCl, and then extracted with DCM (2×50 mL). The combined organic layers were washed brine, dried over anhydrous MgSO4, filtered and concentrated in vacuo. The resulting residue was recrystallized from EtOAc-hexanes to give 4-bromo-N-(5-bromopyridin-3-yl)-2-chlorobenzenesulfonamide (0.530 g, 72%) as a red solid. 1H-NMR (CDCl3, Varian 400 MHz) δ 7.53-7.55 (1H, m), 7.71 (1H, d, J=1.6 Hz), 7.78 (1H, t, J=2.2 Hz), 7.89 (1H, d, J=8.4 Hz), 8.26 (1H, d, J=2.0 Hz). 8.44 (1H, d, J=2.4 Hz).

reactant | 5-bromopyridin-3-amine | 1.73 mmol, 0.300 g | BrC=1C=C(C=NC1)N | C5H5BrN2
reactant | 4-bromo-2-chlorobenzene-1-sulfonyl chloride | 2.08 mmol, 0.600 g | BrC1=CC(=C(C=C1)S(=O)(=O)Cl)Cl | C6H3BrCl2O2S
solvent | pyridine | 8.67 ml | N1=CC=CC=C1 | C5H5N
product | 4-bromo-N-(5-bromopyridin-3-yl)-2-chlorobenzenesulfonamide | 0.530 g, 72% | BrC1=CC(=C(C=C1)S(=O)(=O)NC=1C=NC=C(C1)Br)Cl | C11H7Br2ClN2O2S
